US07579359B2
A solution of 2-[(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)oxy]acetamide (2.7 g, 9.5 mmol) in dichloromethane (100 mL) was cooled to approximately 0° C., and 3-chloroperoxybenzoic acid (3.2 g of approximately 77% pure material, 14 mmol) was added. The reaction was stirred for ten minutes at 0° C. and for one hour at room temperature. An analysis by LC/MS indicated that no reaction had occurred; the starting material was very insoluble. THF (40 mL) was added, and the reaction was stirred for 23 hours. An analysis by LC/MS indicated the presence of starting material, and dichloromethane (500 mL) was added. The reaction was stirred for seven hours, was allowed to stand for three days, and then was concentrated under reduced pressure to provide 2-[(5-oxido-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)oxy]acetamide.

reactant | 2-[(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)oxy]acetamide | 9.5 mmol, 2.7 g | C(CC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)OCC(=O)N | C15H16N4O2
reactant | 3-chloroperoxybenzoic acid | 14 mmol, 3.2 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | THF | 40 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 2-[(5-oxido-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)oxy]acetamide | [O-][N+]1=CC2=C(C=3C=CC=CC13)N(C(=N2)CCC)OCC(=O)N | C15H16N4O3
